US08039460B2
tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoro-1-methoxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate
Sodium hydride (60% dispersion in mineral oil; 88.3 mg, 2.21 mmol) was added to a solution of tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoro-1-hydroxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (0.68 g, 1.47 mmol) and iodomethane (92.0 μL, 1.47 mmol) in tetrahydrofuran (20 mL) at 0° C. After 2 h, the mixture was allowed to warm to ambient temperature. After 2 h, additional iodomethane (92.0 μL, 1.47 mmol) and sodium hydride (60% dispersion in mineral oil; 10.0 mg, 0.27 mmol) were added. After 1 h, the reaction was quenched with water and the mixture was extracted with dichloromethane (3×). The organic layer was washed with water, saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→30% ethyl acetate/dichloromethane) gave the title compound (195 mg). MS 476.2 (M+1).

reactant | Sodium hydride | 2.21 mmol, 88.3 mg | [H-].[Na+]
reactant | tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoro-1-hydroxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 1.47 mmol, 0.68 g | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C(F)(F)F)O)NC(OC(C)(C)C)=O | C21H24F5N3O3
reactant | iodomethane | 1.47 mmol, 92.0 μL | IC | CH3I
reactant | iodomethane | 1.47 mmol, 92.0 μL | IC | CH3I
reactant | sodium hydride | 0.27 mmol, 10.0 mg | [H-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoro-1-methoxyethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 195 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C(F)(F)F)OC)NC(OC(C)(C)C)=O | C22H26F5N3O3
